US08067447B2
To solution of 1-(4-fluorophenyl)-1H-indazol-5-carboxaldehyde (1.0 g, 4.16 mmol) and 1-methoxy-2-methyl-1-(trimethylsiloxy)propene (0.85 mL, 4.2 mmol) in 10 mL of dry DCM at 0° C. was added TiCl4 (0.8 mL of 1.0 M DCM solution, 0.8 mmol) The reaction was stirred 2 h and then quenched with aqueous sodium bicarbonate and extracted 2×EtOAc. The organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified by SiO2 chromatography eluting with 1:2 EtOAc/hexane to give 700 mg (50% yield) of methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-hydroxy-2,2-dimethylpropanoate. MS found: (M+H)+=343.

reactant | 1-(4-fluorophenyl)-1H-indazol-5-carboxaldehyde | 4.16 mmol, 1.0 g | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C=O | C14H9FN2O
reactant | 1-methoxy-2-methyl-1-(trimethylsiloxy)propene | 4.2 mmol, 0.85 mL | COC(=C(C)C)O[Si](C)(C)C | C8H18O2Si
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 0.8 mmol, 1.0 M, 0.8 mL | Cl[Ti](Cl)(Cl)Cl
product | methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-hydroxy-2,2-dimethylpropanoate | 700 mg, 50% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)(C)C)O | C19H19FN2O3
